US07153964B2
2-(4-Sulphamoylanilino)-4-[2-fluoro-5-methyl-N-(4,4,4-trifluorobutyl)anilino]pyrimidine
2-Chloro-4-(N-4,4,4,-trifluorobutyl-2-fluoro-5-methylanilino)pyrimidine (215 mg, 0.62 mmol) was dissolved in n-butanol (2 ml) and sulphanilamide (85 mg, 0.50 mmol) was added. The resulting suspension was treated with methanol until all the solid dissolved. The reaction mixture was heated at 95° C. for 12 hours and allowed to cool to ambient temperature. The solid that had precipitated was collected by filtration, washed with a small volume of methanol and dried in vacuo to yield a white solid (132 mg). NMR (400 MHz@373K): 1.85 (m, 2H), 2.31 (m, 2H), 2.35 (s, 3H), 3.97 (t, 2H), 6.04 (d, 1H), 7.29 (m, 3H) 8.02 (d, 1H), 10.00 (br s, 1H); MS (M+H)+: 484.4.

reactant | 2-Chloro-4-(N-4,4,4,-trifluorobutyl-2-fluoro-5-methylanilino)pyrimidine | 0.62 mmol, 215 mg | ClC1=NC=CC(=N1)N(C1=C(C=CC(=C1)C)F)CCCC(F)(F)F | C15H14ClF4N3
reactant | sulphanilamide | 0.50 mmol, 85 mg | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | methanol | CO | CH4O
solvent | n-butanol | 2 ml | C(CCC)O | C4H10O
product | 2-(4-Sulphamoylanilino)-4-[2-fluoro-5-methyl-N-(4,4,4-trifluorobutyl)anilino]pyrimidine | 132 mg | S(N)(=O)(=O)C1=CC=C(NC2=NC=CC(=N2)N(C2=C(C=CC(=C2)C)F)CCCC(F)(F)F)C=C1 | C21H21F4N5O2S
